US06673797B1
(1) Preparation of 5-Ethoxycarbonyl-2-trimethylsilylethynylpyridine
To a solution of 6-chloronicotinic acid ethyl ester (1.92 g) in N,N-dimethylformamide (1 ml), trimethylsilylacetylene (2.0 g), bistriphenylphosphine palladium dichloride (210 mg), cuprous iodide (60 mg) and triethylamine (1.2 g) were added successively and the mixture was stirred in a sealed tube at 100° C. for 2 hours. After cooling, the reaction solution was poured into a saturated aqueous sodium hydrogencabonate solution, extracted with ethyl acetate, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 2.38 g of the desired product as a brown oil.

reactant | 6-chloronicotinic acid ethyl ester | 1.92 g | C(C)OC(C1=CN=C(C=C1)Cl)=O | C8H8ClNO2
reactant | trimethylsilylacetylene | 2.0 g | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencabonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 5-Ethoxycarbonyl-2-trimethylsilylethynylpyridine | 2.38 g | C(C)OC(=O)C=1C=CC(=NC1)C#C[Si](C)(C)C | C13H17NO2Si
